2137-03-10 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-3-9**] 03:30 PM
 ULTRASOUND - At [**2137-3-10**] 12:00 AM
   Abdominal US with doppler:
     - nodular, shrunken liver
     - hepatic arteries patent
     - flow reversed in L portal
     - no flow in main or R portal veins visualized (slow flow vs
   thrombus)
     - LLQ marked
     - hepatic veins patent
   -->spoke with liver overnight, no anticoagulation for now since we
   don't know status of esophageal potential varices (also guaiac
   positive)
   - no BM despite lactulose, strandy blood in residual OG tube, belly
   somewhat larger-->KUB ordered
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-3-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-3-9**] 10:39 PM
   Propofol - [**2137-3-10**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-10**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 111 (69 - 111) bpm
   BP: 125/89(98) {86/44(56) - 125/89(98)} mmHg
   RR: 17 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,221 mL
                                                                    323 mL
   PO:
             TF:
   IVF:
                                                                    601 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    135 mL
   Urine:
                                                                    205 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,516 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 559 (559 - 559) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 11 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes to loud voice, appears comfortable
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy i
   CHEST:Lungs are clear anteriorly without wheeze, rales, or rhonchi.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Slightly distended.  Soft to deep palpation
   without any evidence of pain.
   EXTREMITIES: warm, no peripheral edema
   NEUROLOGIC: intubated, sedated, opens eyes to loud voice.
   Labs / Radiology
   106 K/uL
   11.5 g/dL
   107 mg/dL
   0.8 mg/dL
   18 mEq/L
   5.3 mEq/L
   37 mg/dL
   108 mEq/L
   131 mEq/L
   34.8 %
   16.9 K/uL
        [image002.jpg]
                             [**2137-3-9**]  07:08 PM
                             [**2137-3-10**]  06:01 AM
   WBC
   15.5
   16.9
   Hct
   33.6
   34.8
   Plt
   86
   106
   Cr
   0.8
   Glucose
   107
   Other labs: PT / PTT / INR:21.1/32.6/2.0, ALT / AST:98/82, Alk Phos / T
   Bili:208/8.5, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:388 IU/L, Ca++:7.3 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   A 54 yo woman with a history of ESLD and multiple recent admissions to
   OSH for hepatic encephalopathy presents with altered mental status.
   .
   # altered mental status:  Most likely secondary to hepatic encephalothy
   given that her son finds the progression similar to previous episodes,
   her ammonia level is elevated, and her recent course indicates frequent
   decompensations.  Benzodiazepene toxicity is also on the differential,
   although her son says her dose has not changed recently.  Regarding the
   cause of likely hepatic encephalopathy, no evidence of SBP including no
   abdominal pain or fevers.  No tap-able pocket visualized in the ED.
   Other infections are also possible triggers.  Blood and urine cx
   pending, CXR without obvious infiltrate.  Med noncomplaince seems less
   likely given family's good history of lactulose administration, but
   this regimen may simply be inadequate given her current level of
   cirrhosis.  Also possible would be acute on chronic hepatic
   insufficiency, e.g. secondary to portal vein thrombosis, although LFTs
   not markedly different from previous values in our system.
   - increase lactulse to 30 mg q2h until mental status begins to clear
   - consider rifaxamin (will d/w liver tomorrow)
   - continue ceftriaxone 1 g q24h for empiric treatment of SBP
   - US with doppler to confirm patency of vasculature
   - will ask US to evaluate if tap-pable site for diagnostic paracentesis
   - f/u blood, urine cx
   - trend WBC
   - plan to continue intubation at current settings until mental status
   improves; trial of PSV now and anticipate extubation tomorrow if
   possible
   .
   #  hypotension: SBP on floor low 80s, likely [**2-19**] midazolam and propofol
   given previously normotensive in ED.  Less likely [**2-19**] sepsis given
   overall clinical picture.  No indication of cardiogenic shock.  Adrenal
   insufficiency is also on the differential given recent course of
   prednisone, although 2 weeks should not cause adrenal failure.
   - IVF bolus
   - stop propofol - will restart as boluses or low rate
   - consider a-line and/or CVL if BP continues to be unstable
   .
   #  ESLD:  Secondary to NASH.  MELD 23.  Family would like to initiate
   liver transplant work-up.
   - continue lasix at home dose of 40 mg qod
   - continue beta blocker at home dose
   - US with dopplers as above
   - hepatology consult - fellow saw patient on arrival in MICU and will
   staff in AM
   - possible liver bx and/or EGD for staging/screening
   .
   # leukocytosis:  with neutrophil predominance. Concerning for
   infection.  Less likely related to recent steroid course.
   - f/u blood and urine cx
   - trend WBC
   - tap ascites if possible
   .
   #  depression/anxiety
   - hold benzos given AMS
   - continue fluoxetine at home dose
   .
   #  hyperlipidemia
   - continue ezetimibe, bile acid sequestrant (converted to
   cholestyramine for formulary)
   .
   # guaiac positive stool
   - IV PPI
   - continue to guaiac stools
   - [**Hospital1 7**] Hct
   .
   # FEN: IVF bolus prn/ replete lytes prn / will initiate TF recs if not
   extubated tomorrow
   # PPX: PPI, heparin SQ, lactulose as bowel regimen
   # ACCESS: PIV
   # CODE: FULL CODE, confirmed with husband and son
   # CONTACT: SON [**Name (NI) 13516**] [**Telephone/Fax (1) 13517**]
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-03-10 08:42:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy
   HPI:
   54 y.o. woman with cirrhosis p/w altered mental status secondaty to
   hepatic encephalopathy.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-3-9**] 03:30 PM
 ULTRASOUND - At [**2137-3-10**] 12:00 AM
   Brieft SBT this AM>>tachycardia
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-3-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-3-9**] 10:39 PM
   Propofol - [**2137-3-10**] 05:45 AM
   Other medications:
   Cholestyramine, Lactulose 30 q2h, Lasix 40mg qod, Flouxetine,
   Ceftriaxone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: No(t) Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO
   Gastrointestinal: No(t) Abdominal pain, Constipation
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia, Coagulopathy
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2137-3-10**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 111 (69 - 111) bpm
   BP: 125/89(98) {86/44(56) - 125/89(98)} mmHg
   RR: 17 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,221 mL
                                                                    335 mL
   PO:
             TF:
   IVF:
                                                                    601 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    135 mL
   Urine:
                                                                    205 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,516 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 559 (559 - 559) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   Ve: 11 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   106 K/uL
   132 mg/dL
   0.9 mg/dL
   17 mEq/L
   5.5 mEq/L
   39 mg/dL
   106 mEq/L
   131 mEq/L
   34.8 %
   16.9 K/uL
        [image002.jpg]
                             [**2137-3-9**]  07:08 PM
                             [**2137-3-10**]  06:01 AM
   WBC
   15.5
   16.9
   Hct
   33.6
   34.8
   Plt
   86
   106
   Cr
   0.8
   0.9
   Glucose
   107
   132
   Other labs: PT / PTT / INR:21.1/32.6/2.0, ALT / AST:109/103, Alk Phos /
   T Bili:221/9.3, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:388 IU/L, Ca++:7.9 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Imaging: RUQ US:  PFI: Reversal of flow within the left portal vein. No
   color flow detected in
   the main portal vein or right portal vein, although Doppler signal was
   able to be obtained. This may represent slow flow within these vessels,
   although
   thrombus cannot be entirely excluded. Normal resistive indices within
   the
   hepatic arteries. The hepatic veins are patent. Large volume ascites.
   Spot
   in the left lower quadrant was marked for paracentesis. No evidence of
   gallstones or biliary dilatation.
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY:  No acute etiology found to date but possible
   new PV thrombosis or worsening liver function.
   -Paracentesis to evaluate for SBP.  Continue empiric treatment with
   ceftriaxone.
   -Not having BMs currently.  KUB does not demonstrate evidence of bowel
   obstruction.  Trial of PR lactulose.  Since going  for liver CT, will
   also image abdomen although ileus is more likely than bowel
   obstruction.
   -Discuss with hepatology if merits anticoagulation for PV thrombosis
   (acuity is unknown).
   > Respiratory Failure:
   Intubated for encephalopathy.
   SBT this am, lighten sedation to assess underlying mental status.
   Change to PSV.
   Repeat CXR today to evaluate for re-expansion of LLL and possible
   pneumonia.
   > Leukocytosis:
   Evaluate for SBP.  Cont empiric Ctx.
   >Metabolic acidosis:
   Non-gap acidosis.  Possibly from NS fluid resuscitation.  Not having
   significant NGT output.
   Check urine lytes.
   >Oliguria:
   Creatinine remains stable.  BP has improved since yesterday.
   Fluid challenge to see if urine output improves.
   ICU Care
   Nutrition: Start TFs if not anticipating extubation.
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 min.
   Pt is critically ill.
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Name13 (STitle) 13542**] with the ICU fellow, Dr. [**Last Name (STitle) 347**], whose
   note above reflects my input.  Did not tolerate SBT this morning due to
   tachypnea.  Had not been moving bowels
 NG suction but then began
   having bowel movements.  CXR today shows elevated left hemidiaphragm
   with ?very large gastric bubble.  U/S showed portal vein with slow flow
   or thrombus, as well as ascited.  Underwent paracentesis, which was
   inconsistent with SBP.  On exam she is somnolent.  Pupils are large but
   very reactive.  Regular heart.  Decreased breath sounds at bases.
   Protuberant lungs.
   Assessment and Plan
   54-year-old woman with hepatic encephalopathy leading to respiratory
   failure related to inability to protect airway.  Does not appear to
   have GIB or SBP as etiology of decompensation; portal vein thrombosis
   is possible
 will discuss with hepatology.   CT head at outside
   hospital did not show major intracranial pathology.   We will CT
   abdomen to exclude SBO and other anatomic causes of inability to
   tolerate lactulose
 may just need time.  Then, begin lactulose +/-
   rifaxamin.  If unable to tolerate lactulose from above, use enemas.
   Volume challenge for oliguria.
   Other issues as per Dr. [**Last Name (STitle) 347**] and the ICU team note from today.
   Discussed with patient
s son; all questions answered.
   Critically ill: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2137-3-10**] 16:30 ------

2137-03-11 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2137-3-10**] 12:20 PM
   - abd/chest CT showed shrunken, cirrhotic liver, ascites, and
   left-sided pleural effusion with adjacent atelectasis vs. pneumonia
   - diagnostic para was negative for SBP
   - makes stools with lactulose
   - BP trending down slowly overnight, requiring NS boluses
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-10**] 12:30 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-3-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-3-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-11**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 98 (96 - 117) bpm
   BP: 86/52(60) {48/40(42) - 130/80(98)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,486 mL
                                                                  1,297 mL
   PO:
             TF:
   IVF:
                                                                  1,766 mL
                                                                    817 mL
   Blood products:
   Total out:
                                                                    919 mL
                                                                    176 mL
   Urine:
                                                                    469 mL
                                                                    176 mL
   NG:
                                                                    150 mL
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,567 mL
                                                                  1,121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 472 (320 - 573) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.31/33/132/16/-8
   Ve: 9.8 L/min
   PaO2 / FiO2: 330
   Physical Examination
   GEN: intubated, sedated, opens eyes to loud voice, appears comfortable
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy i
   CHEST:Lungs are clear anteriorly without wheeze, rales, or rhonchi.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Slightly distended.  Soft to deep palpation
   without any evidence of pain.
   EXTREMITIES: warm, no peripheral edema
   NEUROLOGIC: intubated, sedated, not responding to commands (on
   propofol)
   Labs / Radiology
   109 K/uL
   11.1 g/dL
   157 mg/dL
   1.3 mg/dL
   16 mEq/L
   5.2 mEq/L
   43 mg/dL
   107 mEq/L
   133 mEq/L
   34.2 %
   20.0 K/uL
        [image002.jpg]
                             [**2137-3-9**]  07:08 PM
                             [**2137-3-10**]  06:01 AM
                             [**2137-3-10**]  11:35 AM
                             [**2137-3-10**]  03:45 PM
                             [**2137-3-11**]  03:40 AM
   WBC
   15.5
   16.9
   16.9
   20.0
   Hct
   33.6
   34.8
   32.4
   34.2
   Plt
   86
   106
   102
   109
   Cr
   0.8
   0.9
   1.2
   1.3
   TCO2
   17
   Glucose
   107
   132
   143
   157
   Other labs: PT / PTT / INR:22.7/62.2/2.1, ALT / AST:107/90, Alk Phos /
   T Bili:208/6.7, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Lactic Acid:4.3 mmol/L, Albumin:2.1 g/dL, LDH:388 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   54 yo woman with a history of ESLD and multiple recent admissions to
   OSH for hepatic encephalopathy presents with altered mental status for
   same.
   # Respiratory failure: mostly from inability to protect airway due to
   encephalopathy. No significant, apparent pulmonary process that would
   explain the respiratory failure.
   - continue ventilatory support; wean off slowly as mental status allows
   # Hepatic encephalopathy:  No clear infectious trigger or med
   non-compliance.  RUQ u/s and liver CT done, showing shrunken liver.
   - continue lactulose prn
   - continue ceftriaxone 1 g q24h for empiric treatment of SBP
   (diagnostic para was done days after initiation of abx)
   - f/u blood, urine cx
   - trend WBC
   # Leukocytosis: ?C. diff colitis vs. SBP vs. ?pna
   - continue ceftriaxone for now
   - check C. diff toxin
   - f/u urine, blood, sputum cx
   # Hypotension: with elevation of Cr, ?in the setting of infection.
   - NS with HCO3 boluses to maintain MAP > 65
   - monitor urine output closely
   - hold furosemide
   #  ESLD:  Secondary to NASH.  MELD 23.  Family would like to initiate
   liver transplant work-up.
   - f/u liver CT final report
   - f/u liver recs
   - treat encephalopathy as ablove
   #  depression/anxiety
   - hold benzos given AMS
   - continue fluoxetine at home dose
   #  hyperlipidemia
   - hold ezetimibe, continue bile acid sequestrant (converted to
   cholestyramine for formulary)
   .
   # guaiac positive stool
   - IV PPI
   - continue to guaiac stools
   - [**Hospital1 7**] Hct
   .
   # FEN: IVF bolus prn/ replete lytes prn / will initiate TF recs if not
   extubated tomorrow
   # PPX: PPI, heparin SQ, lactulose as bowel regimen
   # ACCESS: PIV
   # CODE: FULL CODE, confirmed with husband and son
   # CONTACT: SON [**Name (NI) 13516**] [**Telephone/Fax (1) 13517**]
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-03-11 10:42:00 Physician Attending Progress Note
Chief Complaint: encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PARACENTESIS - At [**2137-3-10**] 12:20 PM negative for SBP. CT with
   cirrhotic liver. starting to make stool on po lactulose. Creatinine is
   rising.
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-10**] 12:30 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-3-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-3-10**] 08:00 PM
   Other medications:
   heparin s/c tid, propofol 10, chloestyramine, pantoprazole, lasix,
   paxil, ciprofloxacin eye drops, lactulose 30 po q2, ceftraixone 2 iv
   q24.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-11**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 102 (96 - 117) bpm
   BP: 110/65(76) {48/40(42) - 130/80(88)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,486 mL
                                                                  1,960 mL
   PO:
             TF:
   IVF:
                                                                  1,766 mL
                                                                  1,360 mL
   Blood products:
   Total out:
                                                                    919 mL
                                                                    291 mL
   Urine:
                                                                    469 mL
                                                                    291 mL
   NG:
                                                                    150 mL
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,567 mL
                                                                  1,669 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 414 (408 - 573) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.31/33/132/16/-8
   Ve: 7.9 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: Well nourished, No acute distress, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   109 K/uL
   157 mg/dL
   1.3 mg/dL
   16 mEq/L
   5.2 mEq/L
   43 mg/dL
   107 mEq/L
   133 mEq/L
   34.2 %
   20.0 K/uL
        [image002.jpg]
                             [**2137-3-9**]  07:08 PM
                             [**2137-3-10**]  06:01 AM
                             [**2137-3-10**]  11:35 AM
                             [**2137-3-10**]  03:45 PM
                             [**2137-3-11**]  03:40 AM
   WBC
   15.5
   16.9
   16.9
   20.0
   Hct
   33.6
   34.8
   32.4
   34.2
   Plt
   86
   106
   102
   109
   Cr
   0.8
   0.9
   1.2
   1.3
   TCO2
   17
   Glucose
   107
   132
   143
   157
   Other labs: PT / PTT / INR:22.7/62.2/2.1, ALT / AST:107/90, Alk Phos /
   T Bili:208/6.7, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Lactic Acid:4.3 mmol/L, Albumin:2.1 g/dL, LDH:388 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Imaging: reviewed chest and abdominal CT
   Microbiology: ascites fluid culture pending
   urine culture negative
   blood culture pend
   Assessment and Plan
   Encephalopathy: will r/a mental status off propofol this am, continue
   lactulose titrate down due to copious stool output.
   Inability to protect airway: can likely come off ventilator once mental
   status improved
   Leukocytosis: will check C.diff, will follow up [**Last Name (LF) 13551**], [**First Name3 (LF) **] send
   sputum cultures
   SBP: on longterm SBP prophylaxis will continue ceftraixone
   Acidosis: likely [**2-19**] to diarrhea.
   Creatinine elevation: will hold lasix,  will replete with IVF boluses
   as needed, willl give her sodium bicarb boluses.
   Depression/anxiety: continue prozac.
   Guiac positive stools: continue to monitor, will re-guiac here.
   Elevated PTT: hold s/c heparin until PTT comes down the resume [**Hospital1 7**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined the pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
   note, including assessment and plan. I would add: 54 yo female with
   cirrhosis with increasing hospitalizations for hepatic encephalopathy,
   admitted with encephalopathy and intubated due to inability to protect
   airway.  [**Last Name **] problem list includes:
   Hepatic encephalopathy with possible portal vein thrombosis
   Acute respiratory failure
   Hyperkalemia
   ARF; may represent pre-renal azotemia
   Leukocytosis
   Guiac positive stools
   CT abd yesterday without SBO and pt now producing BM
s with lactulose.
   Her MS has not yet improved but she may just need more time. Will scale
   back frequency of laculose due to voluminous stool output; periodically
   assess MS [**First Name (Titles) **] [**Last Name (Titles) 6573**] with family or interpreter at bedside to assist
   with language. With no clear infectious source, would not further
   expand antibiotics, but given worsening leukocytosis will pan-culture
   and check Cdiff.  Fluid challenge for decreased urine output and mild
   renal insufficiency.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2137-3-11**] 12:45 PM ------
   Evening update: About 4-5 hours after extubation, pt required
   re-intubation for secretions and respiratory distress. Per anesthesia,
   mild degree of airway edema but not enough to cause significant airway
   compromise.
   Critical care time: add
l 40 minutees.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2137-3-12**] 20:10 ------

2137-03-12 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-11**]
   Per Dr. [**First Name (STitle) 5974**] ([**Telephone/Fax (1) 13571**]):
   Pt is seen by Dr. [**Last Name (STitle) 10539**].  Known cirrhosis, no focal liver lesion.
   Recent decompensation, started on lactulose and diuretics (100
   aldactone/40 lasix). Low lung volumes are new.
   - FENA .1%, Prerenal, hydrated with Albumin/NaHCO3
   - Poor mental status, agitated/tachycardic continued intubation
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-11**] 12:31 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 93 (88 - 123) bpm
   BP: 91/48(59) {91/45(57) - 142/72(81)} mmHg
   RR: 17 (10 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,752 mL
                                                                    251 mL
   PO:
             TF:
                                                                     80 mL
                                                                     76 mL
   IVF:
                                                                  2,632 mL
                                                                    175 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,241 mL
                                                                    235 mL
   Urine:
                                                                    641 mL
                                                                    235 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  2,511 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 555 (346 - 569) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.28/34/125/21/-9
   Ve: 7.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   GEN: intubated, sedated, opens eyes to loud voice, appears comfortable
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy i
   CHEST:Lungs are clear anteriorly without wheeze, rales, or rhonchi.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Slightly distended.  Soft to deep palpation
   without any evidence of pain.
   EXTREMITIES: warm, no peripheral edema
   NEUROLOGIC: intubated, sedated, not responding to commands (on
   propofol)
   Labs / Radiology
   52 K/uL
   8.6 g/dL
   124 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   47 mg/dL
   109 mEq/L
   138 mEq/L
   24.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2137-3-9**]  07:08 PM
                             [**2137-3-10**]  06:01 AM
                             [**2137-3-10**]  11:35 AM
                             [**2137-3-10**]  03:45 PM
                             [**2137-3-11**]  03:40 AM
                             [**2137-3-11**]  10:41 AM
                             [**2137-3-11**]  12:56 PM
                             [**2137-3-12**]  05:23 AM
   WBC
   15.5
   16.9
   16.9
   20.0
   12.4
   Hct
   33.6
   34.8
   32.4
   34.2
   34.2
   25.3
   Plt
   86
   106
   102
   109
   69
   Cr
   0.8
   0.9
   1.2
   1.3
   1.6
   1.2
   TCO2
   17
   17
   Glucose
   107
   132
   143
   157
   167
   124
   Other labs: PT / PTT / INR:25.8/79.9/2.5, ALT / AST:74/68, Alk Phos / T
   Bili:142/6.3, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Lactic Acid:4.2 mmol/L, Albumin:2.8 g/dL, LDH:388 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: Chest/Abd CT
   1. Moderate left pleural effusion with left lower lobe consolidation
   likely
   representing compressive atelectasis, less likely pneumonia.
   2. Elevated diaphragm, much greater on the left.
   3. ET tube and NG tube in place.
   4. No discrete pulmonary embolus or aortic dissection is demonstrated.
   5. Moderate simple ascites.
   6. Findings consistent with cirrhosis. No sequelae of portal
   hypertension or
   enhancing hepatic mass lesion.
   7. Colonic distention with air fluid levels, incompletely assessed on
   teh
   current exam.
   8. Body wall edema suggestive of fluid overload.
   9. L4 body focal hypodensity of unclear etiology. This may represent
   focal
   osteopenia, and attention to this area is suggested on follow-up
   imaging.
   Microbiology: C. diff (-)
   GRAM STAIN (Final [**2137-3-11**]):
         GRAM STAIN PERFORMED WITH CHEMISTRY SPECIMEN [**2137-3-11**].
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   54 yo woman with a history of ESLD and multiple recent admissions to
   OSH for hepatic encephalopathy presents with altered mental status for
   same.
   # Respiratory failure: mostly from inability to protect airway due to
   encephalopathy. No significant, apparent pulmonary process that would
   explain the respiratory failure.
   - will wean off propofol and try SBT
   - consider extubation if mental status allows
   # Hepatic encephalopathy:  No clear infectious trigger or med
   non-compliance.  RUQ u/s and liver CT done, showing shrunken liver.
   Mental status not currently assessible due to sedation.
   - wean off sedation; re-assess mental status
   - continue ceftriaxone 1 g q24h for now; will talk to hepatology about
   abx
   - f/u blood, urine cx
   - trend WBC
   # Leukocytosis: ?C. diff colitis vs. SBP vs. ?pna. Now resolving. C.
   diff negative.
   - continue ceftriaxone for now
   - f/u urine, blood, sputum cx
   # Hypotension: with elevation of Cr, ?in the setting of infection.
   - IVF boluses as needed to maintain MAP > 65
   - monitor urine output closely
   - continue to hold furosemide
   #  ESLD:  Secondary to NASH.  MELD 23.  Family would like to initiate
   liver transplant work-up.
   - f/u liver CT final report
   - f/u liver recs
   - treat encephalopathy as ablove
   #  depression/anxiety
   - hold benzos given AMS
   - continue fluoxetine at home dose
   #  hyperlipidemia
   - hold ezetimibe, continue bile acid sequestrant (converted to
   cholestyramine for formulary)
   .
   # guaiac positive stool
   - IV PPI
   - continue to guaiac stools
   - [**Hospital1 7**] Hct
   .
   # FEN: IVF bolus prn/ replete lytes prn / continue TF
   # PPX: PPI, pneumoboots, lactulose as bowel regimen
   # ACCESS: PIV
   # CODE: FULL CODE, confirmed with husband and son
   # CONTACT: SON [**Name (NI) 13516**] [**Telephone/Fax (1) 13517**]
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2137-3-11**] 04:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-03-12 10:11:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   54 yo F with cirrhosis and hepatic encephalopathy, who presented with
   hepatic decompensation and intubated in ED for airway protection
   Problems:
   liver failure
   respiratory failure [**2-19**] altered mental status
   Acute on chronic renal failure in setting of low intravascular volume
   24 Hour Events:
   remains intubated [**2-19**] poor mental status
   fluid challenge with albumin
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-11**] 12:31 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   propofol
   cholestyramine
   pantoprazole
   paxil 40
   cipro OD
   CTX 2 g q 24
   Lactulose q 4 hr, held x 1 for increased stool output
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-12**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 111 (82 - 123) bpm
   BP: 130/47(67) {85/44(54) - 142/72(81)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,752 mL
                                                                    313 mL
   PO:
             TF:
                                                                     80 mL
                                                                     98 mL
   IVF:
                                                                  2,632 mL
                                                                    215 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,241 mL
                                                                    305 mL
   Urine:
                                                                    641 mL
                                                                    305 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  2,511 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 17 (17 - 569) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.37/39/112/21/-2
   Ve: 5.4 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   General: intubated, sedated, responds to noxious stimuli
   HEENT: PERRL, EOMI
   CV: S1/S2 rrr
   CHEST: CTA b/l
   ABD: soft, nt , nd
   EXT: wwp, 1+ edema b/l
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   52 K/uL
   124 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   47 mg/dL
   109 mEq/L
   138 mEq/L
   24.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2137-3-9**]  07:08 PM
                             [**2137-3-10**]  06:01 AM
                             [**2137-3-10**]  11:35 AM
                             [**2137-3-10**]  03:45 PM
                             [**2137-3-11**]  03:40 AM
                             [**2137-3-11**]  10:41 AM
                             [**2137-3-11**]  12:56 PM
                             [**2137-3-12**]  05:23 AM
                             [**2137-3-12**]  07:15 AM
                             [**2137-3-12**]  08:13 AM
   WBC
   15.5
   16.9
   16.9
   20.0
   12.4
   11.0
   Hct
   33.6
   34.8
   32.4
   34.2
   34.2
   25.3
   24.5
   Plt
   86
   106
   102
   109
   69
   52
   Cr
   0.8
   0.9
   1.2
   1.3
   1.6
   1.2
   TCO2
   17
   17
   23
   Glucose
   107
   132
   143
   157
   167
   124
   Other labs: PT / PTT / INR:25.8/79.9/2.5, ALT / AST:74/68, Alk Phos / T
   Bili:142/6.3, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Lactic Acid:2.2 mmol/L, Albumin:2.8 g/dL, LDH:388 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: 7.37/39/112
   Microbiology: C dif negative
   ascites ngtd
   Blood cultures 2/20: ngtd
   Assessment and Plan
   54 yo F ESLD [**2-19**] NASH presents with hepatic encephalopathy intubated
   for airway protection
   1. Respiratory failure:
    - will decrease vent support to [**5-22**]
    - wean sedation with aim for extubation
   2. Liver failure:
    - cont lactulose for encephalopathy
    - cont ceftriaxone for sbp prophylaxis
    - f/u coags, lfts
    - touch base with liver service
    - [**Hospital1 **] lytes and cbc given prior hct drop and guaiac +
    - will t/b with radiology regarding possible portal vein thrombosis,
   will likely require a/c when coags improve
   3. HoTN: improved with IVF, continue IVF bolus as needed
   4. AoCRF: improved after albumin trial, likely prerenal, less likely
   HRS given response
    - cont monitor, albumin 25% bolus as needed
   5. Coagulopathy: rising INR despite other liver function tests
   improving.  Will give Vit K and continue to follow
   6. History of DVT:
    - holding pneumoboots
   7. FEN: trophic tube feeds, advance as tolerated
   ICU Care
   Nutrition:
   Replete (Full) - [**2137-3-11**] 04:00 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 192**]
s note, and
   would add/emphasize:
   54 yo female with NASH cirrhosis admitted with hepatic encephalopathy
   and acute respiratory failure [**2-19**] inability to protect airway. No
   obvious GI bleed or infection as precipitant, was found to have
   probable portal vein thrombosis by abdominal US. Acute renal
   insufficiency improved with albumin challenge suggesting pre-renal
   azotenia. Extubated this morning.
   Major problems include-
   1.       Hepatic encephalopathy
 can intermittently turn head to
   direction, when encouraged by family (language barrier). Hard to
   determine whether this is significantly improved; however until this
   morning pt was on propofol for sedation. Try to minimize sedation as
   able, continue lactulose, CTX for SBP prophylaxis and will d/w
   hepatology re: adding rifaximin if MS doesn
t improve soon.
   2.       NASH cirrhosis- on lactulose, CTX, albumin daily. No current
   intervention for portal vein thrombosis
   3.       Anemia: checking hemolysis labs
   4.       Acute respiratory failure- extubated this morning, so far
   tolerating. Bilateral low lung volumes could be due to ascites/pleural
   effusion but as this was reportedly a new development, check ABG later
   today to r/o acute hypercarbia
   5.       Tachycardia: suspect [**2-19**] agitation as HR increases with when
   propofol was stopped; other possibilities include Bdz withdrawal (on
   clonazepam 2 mg QID as oupt); volume depletion- try low dose Bdz,
   re-dose albumin
   Family updated.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2137-3-12**] 16:41 ------

2137-03-13 11:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   54 yo woman with a history of ESLD and multiple recent admissions to
   OSH for hepatic encephalopathy presents with altered mental status for
   same.
   # Hepatic encephalopathy:  Stable.  No clear infectious trigger.  RUQ
   u/s and liver CT done, showing shrunken liver. Mental status not
   currently assessible due to sedation.
   - continue lactulose and rifaxamin per liver recs
   - continue ciprofloxacin at ppx dose
   - f/u blood, urine cx
   .
   # Coagulopathy:  secondary to ESLD
   .
   # Leukocytosis: unclear etiology
   - f/u urine, blood, sputum cx.
   .
   # Anemia:  concern for GI bleed or hemolysis.  Hct 25 but not changing.
   - hemolysis labs
   - monitor for signs of GI bleed (has had guaiac + stool but no
   hemodynamic instability, etc)
   # Hypotension: with elevation of Cr, ?in the setting of infection.
   - IVF boluses as needed to maintain MAP > 65
   - monitor urine output closely
   - continue to hold furosemide
   #  ESLD:  Secondary to NASH.  MELD 23.  Family would like to initiate
   liver transplant work-up.
   - f/u liver CT final report
   - f/u liver recs
   - treat encephalopathy as above
   #  depression/anxiety
   - hold benzos given AMS
   - continue fluoxetine at home dose
   #  hyperlipidemia
   - hold ezetimibe, continue bile acid sequestrant (converted to
   cholestyramine for formulary)
   .
   .
   # FEN: IVF bolus prn/ replete lytes prn / continue TF
   # PPX: PPI, pneumoboots, lactulose as bowel regimen
   # ACCESS: PIV
   # CODE: FULL CODE, confirmed with husband and son
   # CONTACT: SON [**Name (NI) 13516**] [**Telephone/Fax (1) 13517**]
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2137-03-13 18:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2137-3-12**] 12:15 PM
   - extubated without difficulty
   - face tent weaned to 4LNC
   - intermittently hypotensive, responsive to NS boluses, also got 50g
   albumin
   - placed NGT
   - started rifaxamin, lactulose, 1 dose PO vitamin K through NGT
   - having slight BRB in stool, likely hemorrhoids
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-3-13**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-13**] 06:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 107 (93 - 131) bpm
   BP: 114/57(70) {95/50(61) - 151/73(89)} mmHg
   RR: 24 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,213 mL
                                                                  1,137 mL
   PO:
             340 mL
   TF:
                                                                    103 mL
                                                                     62 mL
   IVF:
                                                                  1,911 mL
                                                                    735 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    830 mL
                                                                    480 mL
   Urine:
                                                                    680 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,383 mL
                                                                    657 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   GEN: extubated, opens eyes to loud voice, appears comfortable
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy
   CHEST:Lungs are clear anteriorly without wheeze, rales, or rhonchi.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Slightly distended.  Soft to deep palpation
   without any evidence of pain.
   EXTREMITIES: warm, no peripheral edema
   Labs / Radiology
   49 K/uL
   8.4 g/dL
   109 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.5 mEq/L
   45 mg/dL
   110 mEq/L
   140 mEq/L
   24.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2137-3-10**]  03:45 PM
                             [**2137-3-11**]  03:40 AM
                             [**2137-3-11**]  10:41 AM
                             [**2137-3-11**]  12:56 PM
                             [**2137-3-12**]  05:23 AM
                             [**2137-3-12**]  07:15 AM
                             [**2137-3-12**]  08:13 AM
                             [**2137-3-12**]  04:34 PM
                             [**2137-3-13**]  03:41 AM
                             [**2137-3-13**]  05:32 PM
   WBC
   16.9
   20.0
   12.4
   11.0
   8.0
   8.9
   Hct
   32.4
   34.2
   34.2
   25.3
   24.5
   24.2
   23.7
   24.8
   Plt
   102
   109
   69
   52
   41
   49
   Cr
   1.2
   1.3
   1.6
   1.2
   1.1
   0.9
   TCO2
   17
   23
   Glucose
   143
   157
   167
   124
   116
   109
   Other labs: PT / PTT / INR:29.4/79.9/2.9, ALT / AST:73/73, Alk Phos / T
   Bili:131/9.9, Differential-Neuts:81.2 %, Lymph:11.2 %, Mono:5.5 %,
   Eos:1.8 %, Lactic Acid:2.2 mmol/L, Albumin:2.8 g/dL, LDH:329 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   54 yo woman with a history of ESLD and multiple recent admissions to
   OSH for hepatic encephalopathy presents with altered mental status
   likely from hepatic encephalopathy.
   # Hepatic encephalopathy:  Stable. No clear infectious trigger. RUQ u/s
   and liver CT done, showing shrunken liver. Mental status stable. Now
   off sedation and extubated.
   - continue lactulose and rifaxamin per liver recs
   - continue ciprofloxacin at ppx dose
   - f/u blood, urine cx
   .
   # Coagulopathy:  secondary to ESLD
   - vitamin K 10 mg again today
   .
   # Leukocytosis: unclear etiology. Now resolved. Only on prophylatic
   dose of ciprofloxacin.
   .
   # Anemia:  concern for GI bleed or hemolysis.  Hct has been in mid 20s,
   stable in the past few days. Minimal blood from rectal tube yesterday
   is likely from hemorrhoids.
   - hemolysis labs
   - monitor for signs of GI bleed (has had guaiac + stool but no
   hemodynamic instability, etc)
   # Recent hypotension: with elevation of Cr, ?in the setting of
   infection. Now resolved.
   - IVF boluses as needed to maintain MAP > 65
   - monitor urine output closely
   - continue to hold furosemide
   #  ESLD:  Secondary to NASH.
   - f/u liver recs
   - treat encephalopathy as above
   #  depression/anxiety
   - hold benzos given AMS
   #  hyperlipidemia
   - hold ezetimibe, continue bile acid sequestrant (converted to
   cholestyramine for formulary)
   .
   .
   # FEN: IVF bolus prn/ replete lytes prn / continue TF
   # PPX: PPI, pneumoboots, lactulose as bowel regimen
   # ACCESS: PIV
   # CODE: FULL CODE, confirmed with husband and son
   # CONTACT: SON [**Name (NI) 13516**] [**Telephone/Fax (1) 13517**]
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] call out to floor today
   ICU Care
   Nutrition:
   Replete (Full) - [**2137-3-13**] 12:20 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-3-9**] 03:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: